US08426411B2
A mixture of 1-(4-(dibenzylamino)-2-methylcyclopentyl)-2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-ylamino)ethanone (5.32 g, 8.75 mmol, Preparation #50) and Lawesson's reagent (1.88 g, 4.64 mmol) was heated at about 60° C. for about 2 h. Lawesson's reagent (1.88 g, 4.64 mmol) was added. The reaction mixture was stirred at about 60° C. for about 1 h. The solvent was removed under reduced pressure and the residue purified by silica gel flash chromatography eluting with a gradient of 0-8% MeOH in DCM to yield N,N-dibenzyl-3-methyl-4-(3-tosyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentanamine (4.47 g, 87%) as a brown amorphous solid: LC/MS (Table 1, Method a) Rt=2.99 min; MS m/z 590 (M+H)+.

reactant | 1-(4-(dibenzylamino)-2-methylcyclopentyl)-2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-ylamino)ethanone | 8.75 mmol, 5.32 g | C(C1=CC=CC=C1)N(C1CC(C(C1)C(CNC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)=O)C)CC2=CC=CC=C2 | C35H37N5O3S
reactant | Lawesson's reagent | 4.64 mmol, 1.88 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | Lawesson's reagent | 4.64 mmol, 1.88 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | N,N-dibenzyl-3-methyl-4-(3-tosyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentanamine | 4.47 g, 87% | C(C1=CC=CC=C1)N(C1CC(C(C1)C1=CN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)C)CC1=CC=CC=C1 | C35H35N5O2S
